US07371747B2
(+)-trans-Cyclohexane-1,2-dicarboxylic anhydride (100 mg, 0.65 mmol) was weighed into a 10 mL round bottom flask and aminoacetonitrile hydrochloride (135 mg, 1.46 mmol) and 4-(dimethylamino)pyridine (7.5 mg, 61 μmol) added. After adding tetrahydrofuran (2.0 mL) and triethylamine (0.20 mL, 1.4 mmol), the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was partitioned between 1 M aqueous hydrochloric acid (30 mL) and ethyl acetate (30 mL). The organic layer was separated, washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated to give (1R,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexanecarboxylic acid (as a colorless solid.

reactant | (+)-trans-Cyclohexane-1,2-dicarboxylic anhydride | 0.65 mmol, 100 mg | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | aminoacetonitrile hydrochloride | 1.46 mmol, 135 mg | Cl.NCC#N
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 61 μmol, 7.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | (1R,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexanecarboxylic acid | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)C(=O)O | C10H14N2O3
